US07855218B2
(5R)-5-(2-fluoro-4-{[(2-fluorophenyl)methyl]oxy}phenyl)-L-prolinamide hydrochloride (E23)
To a solution of 1,1-dimethylethyl (2S,5R)-2-(aminocarbonyl)-5-(2-fluoro-4-{[(2-fluorophenyl)methyl]oxy}phenyl)-1-pyrrolidinecarboxylate (D47, 130 mg, 0.300 mmol) in a mixture of ethyl acetate (2.3 ml) and methanol (0.230 ml) was added acetyl chloride (64 μl, 2.5 eq) at 0° C. The mixture was shaken for 2 h and slowly allowed to warm to room temperature. After evaporating the solvent, the residue was triturated with diethyl ether to afford the title compound as a white solid (101 mg, 92%); Rt (HPLC): 3.66 min; MS: (ES/+) m/z: 333 [MH+], C18H18F2N2O2 requires 332; 1H NMR (400 MHz, DMSO-d6) δ (ppm): 10.36 (br. s., 1H), 8.35 (br. s., 1H), 8.04 (s, 1H), 7.72 (s, 1H), 7.51-7.64 (m, 2H), 7.40-7.49 (m, 1H), 7.20-7.32 (m, 2H), 7.05 (dd, 1H), 6.98 (dd, 1H), 5.19 (s, 2H), 4.81 (dd, 1H), 4.31 (dd, 1H), 2.22-2.42 (m, 2H), 2.01-2.22 (m, 2H).

reactant | 1,1-dimethylethyl (2S,5R)-2-(aminocarbonyl)-5-(2-fluoro-4-{[(2-fluorophenyl)methyl]oxy}phenyl)-1-pyrrolidinecarboxylate | 0.300 mmol, 130 mg | NC(=O)[C@H]1N([C@H](CC1)C1=C(C=C(C=C1)OCC1=C(C=CC=C1)F)F)C(=O)OC(C)(C)C | C23H26F2N2O4
reactant | acetyl chloride | 64 μl, 2.5 eq | C(C)(=O)Cl | C2H3ClO
solvent | ethyl acetate | 2.3 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 0.230 ml | CO | CH4O
product | (5R)-5-(2-fluoro-4-{[(2-fluorophenyl)methyl]oxy}phenyl)-L-prolinamide hydrochloride | 101 mg, 92% | Cl.FC1=C(C=CC(=C1)OCC1=C(C=CC=C1)F)[C@H]1CC[C@H](N1)C(=O)N | InChI=1S/C18H18F2N2O2.ClH/c19-14-4-2-1-3-11(14)10-24-12-5-6-13(15(20)9-12)16-7-8-17(22-16)18(21)23;/h1-6,9,16-17,22H,7-8,10H2,(H2,21,23);1H/t16-,17+;/m1./s1
